US07960377B2
To a solution of methyl 1-(4-(trifluoromethyl)piperidin-1-ylsulfonyl)-2,3-dihydro-1H-pyrido[2,3-b][1,4]oxazine-7-carboxylate (0.280 g, 0.684 mmol) in MeOH (20 mL) was added lithium hydroxide monohydrate (0.144 g, 3.42 mmol) and water (4.00 mL) which provided a white suspension. The reaction was stirred at room temp for 2.5 h. The MeOH was removed under reduced pressure and the resulting aqueous solution was neutralized with concentrated HCl (400 mL) to provide a white solid. The suspension was extracted EtOAc (3×10 mL). The combined organics were dried over anhydrous Na2SO4 and concentrated in vacuo to provide 1-(4-(trifluoromethyl)piperidin-1-ylsulfonyl)-2,3-dihydro-1H-pyrido[2,3-b][1,4]oxazine-7-carboxylic acid as a white solid. The yield was assumed to be 100% for calculation purposes in subsequent reactions. LCMS (+ESI) m/z=396.1 [M+H]+.

reactant | methyl 1-(4-(trifluoromethyl)piperidin-1-ylsulfonyl)-2,3-dihydro-1H-pyrido[2,3-b][1,4]oxazine-7-carboxylate | 0.684 mmol, 0.280 g | FC(C1CCN(CC1)S(=O)(=O)N1C2=C(OCC1)N=CC(=C2)C(=O)OC)(F)F | C15H18F3N3O5S
reactant | lithium hydroxide monohydrate | 3.42 mmol, 0.144 g | O.[OH-].[Li+]
reactant | water | 4.00 mL | O | H2O
solvent | MeOH | 20 mL | CO | CH4O
product | 1-(4-(trifluoromethyl)piperidin-1-ylsulfonyl)-2,3-dihydro-1H-pyrido[2,3-b][1,4]oxazine-7-carboxylic acid | FC(C1CCN(CC1)S(=O)(=O)N1C2=C(OCC1)N=CC(=C2)C(=O)O)(F)F | C14H16F3N3O5S
